### PR TITLE
[Merged by Bors] - chore: squeeze/golf away a few non-terminal simps

### PR DESCRIPTION
**Pull request by grunweg**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/FieldSimp/Lemmas.lean [hunk 1]
```diff
@@ -202,13 +200,13 @@ theorem mul_eq_eval₁ [CommGroupWithZero M] (a₁ : ℤ × M) {a₂ : ℤ × M}
 theorem mul_eq_eval₂ [CommGroupWithZero M] (r₁ r₂ : ℤ) (x : M) {l₁ l₂ l : NF M}
     (h : l₁.eval * l₂.eval = l.eval) :
     ((r₁, x) ::ᵣ l₁).eval * ((r₂, x) ::ᵣ l₂).eval = ((r₁ + r₂, x) ::ᵣ l).eval := by
-  simp [zpow'_add, ← h]
+  simp only [eval_cons, ← h, zpow'_add]
```
Comment (grunweg) [inline Mathlib/Tactic/FieldSimp/Lemmas.lean:203]: I'm happy to revert this change and the next one, if you prefer. For me, avoid a non-terminal simp is useful here --- and the new line is just marginally longer.

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks! 

maintainer merge

**Comment by adomani** [comment]
Thanks!

bors merge
